US07316884B2
A mixture obtained by dissolving 16.4 g (0.05 mol) of 5-bromomethyl-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one in 58 g of isopropyl ether was placed in a flask equipped with an agitator, a thermometer, a condenser and a dropping funnel. 36.5 g (0.5 mol) of N,N-dimethylformamide was added by drops thereto, followed by intensively stirring at room temperature for 4 hours. After completion of the stirring, insoluble products were removed from the reaction solution by filtration, and the obtained filtrate was transferred into a 500 ml separatory funnel. The solution was left at rest, so as to separate it into two layers, and the lower N,N-dimethylformamide layer was removed. The upper isopropyl ether layer washed with water to remove N,N-dimethylformamide dissolved therein. Thereafter, isopropyl ether was removed, so as to obtain white crystals. The obtained white crystals were recrystallized from hexane, so as to obtain 6.6 g of 5-methylene-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one (hereinafter referred to as AdMDO) (yield: 53%).

reactant | 5-bromomethyl-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one | 0.05 mol, 16.4 g | BrCC1C(OC(O1)(C)C12CC3CC(CC(C1)C3)C2)=O | C15H21BrO3
reactant | N,N-dimethylformamide | 0.5 mol, 36.5 g | CN(C=O)C | C3H7NO
solvent | isopropyl ether | 58 g | C(C)(C)OC(C)C | C6H14O
product | 5-methylene-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one | 6.6 g, yield: 53% | C=C1C(OC(O1)(C)C12CC3CC(CC(C1)C3)C2)=O | C15H20O3
